US05371101
In the same manner as in Reference Example 5, starting from 1.43 g of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 0.94 g of 4-(4-isopropoxyphenyl)-3(2H,4H)-1,2,4-triazolone, 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-(4-isopropoxyphenyl)-3(2H,4H)-1,2,4-triazolone (0.84 g) was obtained as a colorless oil.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 1.43 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-(4-isopropoxyphenyl)-3(2H,4H)-1,2,4-triazolone | 0.94 g | C(C)(C)OC1=CC=C(C=C1)N1C(NN=C1)=O | C11H13N3O2
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-(4-isopropoxyphenyl)-3(2H,4H)-1,2,4-triazolone | 0.84 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=CN(C2=O)C2=CC=C(C=C2)OC(C)C)CO1 | C21H21F2N3O3
